US08242145B2
Step 2: (S)-2-Amino-indan-1-ol
To (S)-2-azido-indan-1-ol (9.39 mmol) in EtOH (45 mL) was added 10% palladium on carbon (0.20 g), and the mixture was stilled under H2 using a Parr apparatus for 4 hours. Analytical LCMS indicated that some starting material was still present, so additional 10% palladium on carbon (0.20 g) was added, and the reaction was stirred overnight under H2 using a Parr apparatus. The mixture was filtered over a pad of Celite and rinsed well with EtOH. The filtrate was concentrated to give the title compound.

reactant | (S)-2-azido-indan-1-ol | 9.39 mmol | N(=[N+]=[N-])C1[C@H](C2=CC=CC=C2C1)O | C9H9N3O
solvent | EtOH | 45 mL | CCO | C2H6O
catalyst | palladium on carbon | 0.20 g | [Pd] | Pd
catalyst | palladium on carbon | 0.20 g | [Pd] | Pd
product | (S)-2-Amino-indan-1-ol | NC1[C@H](C2=CC=CC=C2C1)O | C9H11NO
